US04742068
1,4-Dihydro-N,N,4,4-tetramethyl-1-pyridineethanamine
In 100 ml of benzene 3.30 ml (0.03 mole) of N,N-dimethylethylenediamine was combined with 3.84 g (0.03 mole) of 3,3-dimethylglutaraldehyde under nitrogen. The reaction mixture was warmed to reflux and water azeotroped off via a Dean-Stark trap. After 15 hours the benzene was evaporated in vacuo giving 5.76 g of crude product as a brown liquid. The crude product was distilled to yield 2.41 g of the title compound as a clear liquid, bp 60° C./0.2 mm Hg.

reactant | benzene | 0.03 mole, 100 ml | C1=CC=CC=C1 | C6H6
reactant | N,N-dimethylethylenediamine | CN(CCN)C | C4H12N2
reactant | 3,3-dimethylglutaraldehyde | 0.03 mole, 3.84 g | CC(CC=O)(CC=O)C | C7H12O2
product | 1,4-Dihydro-N,N,4,4-tetramethyl-1-pyridineethanamine | 2.41 g | CN(CCN1C=CC(C=C1)(C)C)C | C11H20N2
